Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril / Percocet / Zestril / Duricef
 
Attending: ___.
 
Chief Complaint:
bilateral hand pain, left shoulder pain, left rib pain.
 
Major Surgical or Invasive Procedure:
___: Irrigation of laceration. 3 cm superficial laceration 
closed in 1 layer with 12 sutures of 5.0 size Ethilon suture 
material with good approximation

 
History of Present Illness:
Ms. ___ is a ___ who presents following mechanical fall down 
12 steps at ___ ___. She reports that she only remembers parts 
of the fall, and vaguely remembers climbing to the top of the 
stairs and returning to bed where she was found by her 
granddaughter at 0400 with blood on her hands. She does not 
recall if she had headstrike or LOC. She was taken by her 
granddaughter to the ___ where she underwent CT 
scan of her head/Cspine and XR of her UE and left shoulder. 
Identified injuries at the time of transfer to ___ include 
left clavicle fracture, multiple left rib fractures, and 
multiple bilateral hand fractures. Got TDaP and Morphine @ OSH.

 
Past Medical History:
Past Medical History:
HTN
HLD
Traumatic dislocated shoulder

Past Surgical History:
B/l hip replacements
L foot neuroma excision
Open cholecystectomy -___ yrs ago
 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission Physical Exam:
Temp: 98.0 HR: 83 BP: 129/80 Resp: 18 O(2)Sat: 98 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
no C-spine tenderness
Chest: left chest wall tenderness to palpation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft
Pelvic: stable pelvis
GU/Flank: No costovertebral angle tenderness
Extr/Back: no midline spine tenderness, bilateral wrist
splints in place with ecchymosis
Skin: abrasions over the right thumb with ecchymosis
Neuro: GCS 15
Psych: Normal mood

Discharge Physical Exam:
VS:97.9 PO 145/75 68 18 97 RA 
HEENT: no deformity. PERRL. EOMI. Neck supple, trachea midline. 
mucus membranes pink/ moist
CV: RRR
Pulm: Clear to auscultation bilaterally
Abd: Soft, non-tender, non-distended. Active bowel sounds x 4 
quadrants.
Ext: Warm and dry. Ecchymotic left great toe. Ecchymotic 
bilateral hands. Bilateral hands in cast. Left great toe 
ecchymosis. 
Neuro: A&O x3. Follows and moves all equal and strong. Speech is 
clear and fluent. 

 
Pertinent Results:
Imaging:
___ FAST negative 

Obtained at OSH ___:
CT cspine/head negative except for parietal scalp hematoma.
CXR: Left ___ rib fx
Left clavicle xrays: Comminuted fracture of the left mid
clavicle.  Fracture of the lateral portion of the left ___ and
3rd rib. 
Right hand xray: Fracture at the base of the second and possibly
third metacarpal bone.  Moderate to severe osteopenia. 
Left hand xray: Intra-articular fracture at the base of the 
first
metacarpal. 
Left humerus/forearm: negative

___ CT chest/abd/pelvis:
1. Acute left clavicular and left third through fifth rib 
fractures. 
2. Small left pneumothorax. 
3. Luminal irregularity and focal hypodensity in the left 
external jugular 
vein, likely representing mural injury with nonocclusive 
thrombus secondary to the adjacent left clavicular fracture.  No 
active extravasation. 
4. Biliary ductal dilatation, potentially due to post 
cholecystectomy state. 

___ Left toe:
No great toe fracture or dislocation.  Scattered mild 
degenerative changes 
midfoot, forefoot. 

___ 05:25AM BLOOD WBC-5.7 RBC-3.34* Hgb-10.5* Hct-32.3* 
MCV-97 MCH-31.4 MCHC-32.5 RDW-12.3 RDWSD-43.5 Plt ___
___ 05:25AM BLOOD Plt ___
___ 05:25AM BLOOD ___ PTT-25.1 ___
___ 09:45AM BLOOD Glucose-76 UreaN-11 Creat-0.6 Na-135 
K-3.4 Cl-100 HCO3-23 AnGap-15
___ 05:25AM BLOOD Glucose-119* UreaN-12 Creat-0.5 Na-140 
K-3.6 Cl-105 HCO3-24 AnGap-15
___ 05:25AM BLOOD ALT-15 AST-21 AlkPhos-49 Amylase-41 
TotBili-1.0
___ 05:25AM BLOOD Calcium-8.3* Phos-2.7 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ yo F who was admitted to the Acute Care 
Trauma Surgery service on ___ after a fall. She was 
transferred from an outside hospital and found to have a left 
clavicle fracture, left sided rib fractures ___, small left 
pneumothorax, left intra-articular fracture at the base of the 
first metacarpal, and right base of the second and probably 
third metacarpal bone. There was an incidental finding of a 
biliary ductal dilatation. She was hemodynamically stable and 
admitted to the surgical floor for further management.

Orthopedic surgery was consulted for the left clavicle fracture 
recommended non-operative management and outpatient follow up. 
Hand surgery was consulted for the bilateral hand fractures and 
placed spica splints. The laceration was washed out and repaired 
with sutures. The right had will be managed non-operatively and 
the left hand will be surgically fixated as an outpatient. 

She had an MRCP to further evaluate biliary ductal which showed 
no choledocholithiasis or periampullary mass.

She was seen and evaluated by occupational and physical therapy 
who recommended discharge to a rehabilitation facility. 

The patient had adequate pain control with oral medication 
regimen. Diet was progressively advanced as tolerated to a 
regular diet with good tolerability. The patient voided without 
problem. During this hospitalization, the patient ambulated 
early and frequently, was adherent with respiratory toilet and 
incentive spirometry, and actively participated in the plan of 
care. The patient received subcutaneous heparin and venodyne 
boots were used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
Atenolol 50mg daily
Losartan 50mg daily
Pravastatin 10 mg PO QPM 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
Hold for loose stool  
3.  Milk of Magnesia 30 mL PO Q8H:PRN constipation 
as needed  
4.  TraMADol 25 mg PO Q4H:PRN pain 
Take lowest effective dose.   
5.  Atenolol 50 mg PO DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  Pravastatin 10 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Left ___ rib fractures 
Comminuted fracture of the left mid clavicle
Right side fracture at the base of the second and possibly third 
metacarpal bone.  
Left intra-articular fracture at the base of the first 
metacarpal. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after a fall. You were found to have bilateral hand 
fractures, a left clavicle fractures, and left sided rib 
fractures ___. There was an incidental finding of biliary duct 
dilation seen on CT scan. You had an MRI to further evaluate 
this change which was a normal.

You were seen by the hand surgeon for your hand fractures. They 
recommend that you wear your splints. Your rehabilitation center 
will be notified with the appointment time for surgery on ___ 
___.

You were seen by the orthopedic team who recommended a sling for 
comfort for your clavicle fracture with gentle range of motion. 

You were seen and evaluated by physical and occupational therapy 
who recommend discharge to rehabilitation.

You are now doing better, tolerating a regular diet, and pain is 
better controlled. You are now ready to be discharged to rehab 
to continue your recovery.

Please note the following discharge instructions:

Rib Fractures:

* Your injury caused Left sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Continue to be 
non-weight bearing on both hands until further notice from your 
hand surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___